US09403813B2
5-Methoxy-4-methyl-2-(pyrimidin-2-yl)benzoic acid (A-1-16)
1M aq. NaOH (4 mL) was added to a rt suspension of methyl 5-methoxy-4-methyl-2-(pyrimidin-2-yl)benzoate (503 mg, 1.95 mmol) in MeOH (5 mL) and THF (5 mL) and stirred at rt for 2 days. The residue was acidified with 25% aq. HCl, washed with DCM and concentrated in vacuo to yield the title compound A-1-16 as a off-white solid as its HCl-salt. LC-MS A: tR=0.63 min, [M+H]+=245.06.

reactant | NaOH | 1M, 4 mL | [OH-].[Na+]
reactant | methyl 5-methoxy-4-methyl-2-(pyrimidin-2-yl)benzoate | 1.95 mmol, 503 mg | COC=1C(=CC(=C(C(=O)OC)C1)C1=NC=CC=N1)C | C14H14N2O3
reactant | HCl | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-Methoxy-4-methyl-2-(pyrimidin-2-yl)benzoic acid | COC=1C(=CC(=C(C(=O)O)C1)C1=NC=CC=N1)C | C13H12N2O3
